US07935724B2
To a solution of 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester (103 mg, 0.44 mmol) at rt was added NaH (60% dispersion, 54 mg, 1.35 mmol). The resulting mixture was allowed to stir at rt for 15 min and benzyl bromide (60 μL, 0.50 mmol) was added. After stirring at rt for additional 30 min, the mixture was poured into a mixture of 1N HCl (3 mL) and H20 (30 mL) and the solution was extracted with EtOAc (30 mL). The organic layer was washed with 20 ml of brine and dried over Na2SO4. After filtration, the filtrate was concentrated and dried under high vacuum, the residue was dissolved in anhydrous MeOH (7 mL) and hydroxylamine hydrochloride (116 mg, 1.67 mmol) was added, followed by the addition of NaOMe solution (4.37 M in MeOH, 0.74 mL, 3.2 mmol). The mixture was allowed to stir at rt till the reaction was complete. The reaction mixture was concentrated and the residue was dissolved in 4 mL of water. The obtained solution was acidified with 2N HCl to pH≈8. The solid formed was filtered, washed with water and dried to give 6-benzyloxymethyl-benzo[b]thiophene-2-carboxylic acid hydroxyamide as a light orange solid. 1H NMR (DMSO-d6, 200 MHz) δ 7.96 (s, 1H), 7.92-7.81 (m, 2H), 7.42-7.20 (m, 6H), 4.64 (s, 2H), 4.55 (s, 2H). MS (EI): cal'd 314.1 (MH+), exp 314.1 (MH+).

reactant | 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.44 mmol, 103 mg | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C12H12O3S
reactant | NaH | 1.35 mmol, 54 mg | [H-].[Na+]
reactant | benzyl bromide | 0.50 mmol, 60 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1N, 3 mL | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.67 mmol, 116 mg | Cl.NO
reactant | NaOMe | 3.2 mmol, 4.37 M, 0.74 mL | C[O-].[Na+]
product | 6-benzyloxymethyl-benzo[b]thiophene-2-carboxylic acid hydroxyamide | ONC(=O)C1=CC2=C(S1)C=C(C=C2)COCC2=CC=CC=C2 | C17H15NO3S
